US07655665B2
(2): Synthesis of (E)-1-((6-chloropyridin-3-yl)methyl)-8-nitro-2,3,6,7-tetrahydro imidazo[1,2-a]pyridin-5(1H)-one oxime
A mixture of 0.618 g (0.002 mol) of 1-((6-chloropyridin-3-yl)methyl)-8-nitro-2,3,6,7-tetrahydroimidazo[1,2-a]pyridin-5(1H)-one, 0.01 mol of hydroxylamine hydrochloride, 0.01 mol of potassium hydroxide and 20 ml of ethanol placed in a 100 ml of flask was refluxed for 24 hours. The solvent was removed and the residue was separated to give a product by column chromatography in 65% yield.

reactant | 1-((6-chloropyridin-3-yl)methyl)-8-nitro-2,3,6,7-tetrahydroimidazo[1,2-a]pyridin-5(1H)-one | 0.002 mol, 0.618 g | ClC1=CC=C(C=N1)CN1CCN2C1=C(CCC2=O)[N+](=O)[O-] | C13H13ClN4O3
reactant | hydroxylamine hydrochloride | 0.01 mol | Cl.NO
reactant | potassium hydroxide | 0.01 mol | [OH-].[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (E)-1-((6-chloropyridin-3-yl)methyl)-8-nitro-2,3,6,7-tetrahydro imidazo[1,2-a]pyridin-5(1H)-one oxime | 65% yield | ClC1=CC=C(C=N1)CN1CCN/2C1=C(CC\C2=N/O)[N+](=O)[O-] | C13H14ClN5O3
